US05162345
(a) 3-Amino-4-dimethylamino-2-butenoic acid ethyl ester
Pyridine-hydrobromide-perbromide (48 g) was added to a solution of ethyl acetoacetate (19.4 g) in anhydrous methylene chloride (500 ml) at room temperature in 20 minutes. The mixture was stirred for 2 hours and then added dropwise to a solution of dimethylamine (48.8 g) in anhydrous methylene chloride (100 ml) at -15°-0° in 1 hr. The resulting mixture was cooled to -20° and ammonia was bubbled through the mixture under stirring for 1 hr and for 2 hr at room temperature. The reaction went to completion, by leaving the mixture overnight at about 5° C. After evaporation of the solvent the residue was treated with ether the solid was filtered off and the solution evaporated, to yield a brown oil, which was purified by column chromatography on silica gel to give the title compound (10.8 g) as an orange oil.

reactant | Pyridine-hydrobromide | Br.N1=CC=CC=C1
reactant | ethyl acetoacetate | 19.4 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | dimethylamine | 48.8 g | CNC | C2H7N
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 3-Amino-4-dimethylamino-2-butenoic acid ethyl ester | 10.8 g | C(C)OC(C=C(CN(C)C)N)=O | C8H16N2O2
